US07615562B2
Step A: 4-(5-Bromo-thiophen-2-yl)-2-methylsulfanyl-pyrimidine
4-Iodo-2-methylsulfanyl-pyrimidine (2.5 g, 10 mmol), (5-Bromo-thiophen-2-yl)-tributyl-stannane (4.9 g, 11 mmol) and PdCl2 (702 mg, 1 mmol) were heated to 105° C. in toluene (30 ml) for 2 hours. The reaction mixture was poured on water and extracted three times with EtOAc. The combined organic phases were dried over sodium sulfate, filtered, evaporated to dryness and purified via chromatography on silicagel (acetone/hexanes:0/100 to 3/97) to give the title compound as colourless foam. Yield: 1.6 g (55%).

reactant | 4-Iodo-2-methylsulfanyl-pyrimidine | 10 mmol, 2.5 g | IC1=NC(=NC=C1)SC | C5H5IN2S
reactant | (5-Bromo-thiophen-2-yl)-tributyl-stannane | 11 mmol, 4.9 g | BrC1=CC=C(S1)[Sn](CCCC)(CCCC)CCCC
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
catalyst | PdCl2 | 1 mmol, 702 mg | Cl[Pd]Cl
product | 4-(5-Bromo-thiophen-2-yl)-2-methylsulfanyl-pyrimidine | BrC1=CC=C(S1)C1=NC(=NC=C1)SC | C9H7BrN2S2
